US05344955
To a 500 ml flask is charged 13.2 gm (0.2 mole) of malononitrile, 18.2 gm (0.2 mole) of sodium dicyanamide and 80 ml of tetramethylurea. The stirred mixture is heated at 145° C. for 2.5 hours; then cooled to about room temperature. The slurry is diluted with 300 ml 2-butanol and stirred in an ice bath for one hour. The solids are filtered, washed with 50 ml of 2-butanol. The product is dried overnight at 70° C. in a vacuum oven to yield 25.0 gm of 1-amino-1-cyanamido-2,2-dicyanoethylene, sodium salt, 80.7% pure or a 65.0% yield.

reactant | malononitrile | 0.2 mole, 13.2 gm | C(CC#N)#N | C3H2N2
reactant | sodium dicyanamide | 0.2 mole, 18.2 gm | [N-](C#N)C#N.[Na+]
reactant | tetramethylurea | 80 ml | CN(C(N(C)C)=O)C | C5H12N2O
solvent | 2-butanol | 300 ml | CC(CC)O | C4H10O
product | 1-amino-1-cyanamido-2,2-dicyanoethylene | 25.0 gm, 65.0% yield | NC(=C(C#N)C#N)NC#N | C5H3N5
